US08377942B2
N-chlorosuccinimid (134 mg) is added to a solution of crude 4-bromo-naphthalene-1-carbaldehyde oxime (250 mg) in DMF (3 ml). After 1 hour at 40° C., the reaction is cooled down to 0° C. and 1,3-dichloro-5-(1-trifluoromethyl-vinyl)-benzene (240 mg) and triethylamine (0.15 ml) are added. The reaction is further reacted at room temperature for 16 hours. Water is added and the reaction mixture is extracted with ethyl acetate. The organic phase is washed with a saturated aqueous solution of NaCl, dried over MgSO4 and concentrated in vacuo. The crude product is purified on a semi-preparative HPLC to yield 3-(4-bromo-naphthalen-1-yl)-5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole as colorless crystals: m.p. 127-130° C.

reactant | N-chlorosuccinimid | 134 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 4-bromo-naphthalene-1-carbaldehyde oxime | 250 mg | BrC1=CC=C(C2=CC=CC=C12)C=NO | C11H8BrNO
reactant | 1,3-dichloro-5-(1-trifluoromethyl-vinyl)-benzene | 240 mg | ClC1=CC(=CC(=C1)C(=C)C(F)(F)F)Cl | C9H5Cl2F3
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 3-(4-bromo-naphthalen-1-yl)-5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole | BrC1=CC=C(C2=CC=CC=C12)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C20H11BrCl2F3NO
